US05523299
2-(5-Chloro-2-methoxyphenyl)-5-(1-piperidinylmethyl)-1H-pyrrole (E4)
This compound was prepared by a method analogous to that used to prepare example 2, but using 2-(5-chloro-2-methoxyphenyl)-1H-pyrrole (prepared according to the method of Kruse et at., [Heterocycles, 26, 3141, 1987] from the corresponding acid chloride) in place of 2-(5-ethylsulphonyl-2-methoxyphenyl)-1H-pyrrole.

reactant | 2-(5-chloro-2-methoxyphenyl)-1H-pyrrole | ClC=1C=CC(=C(C1)C=1NC=CC1)OC | C11H10ClNO
reactant | 2-(5-ethylsulphonyl-2-methoxyphenyl)-1H-pyrrole | C(C)S(=O)(=O)C=1C=CC(=C(C1)C=1NC=CC1)OC | C13H15NO3S
product | 2-(5-Chloro-2-methoxyphenyl)-5-(1-piperidinylmethyl)-1H-pyrrole | ClC=1C=CC(=C(C1)C=1NC(=CC1)CN1CCCCC1)OC | C17H21ClN2O
